US05428021
A solution of 4.0 g (16 mmoles) of 6-nitro-5-methyl-2-ethoxy-3,1-benzoxazin-4-one in 65 mL ethyl acetate was transferred to a Parr bottle. 1.0 g (0.94 mmoles) 10% Pd/C catalyst (obtained from Matheson, Coleman & Bell) was added. The sample was hydrogenated on a Parr shaker at ambient room temperature and 1 atm pressure for 5 hours. The catalyst was removed by filtration through a pad of Celite. The filtrate was concentrated in vacuo to produce a bright yellow solid. There was obtained 2.5 g (71% yield) of 6-amino-5-methyl-2-ethoxy-3,1-benzoxazin-4-one. NMR (DMSO-d6): 1.33(t,3H,J=6.9 Hz), 2.46(s,3H), 4.36(q,2H,J=6.9 Hz), 5.24(bs,2H), 7.05(d,1H,J=8.4 Hz), 7.14(d,1H,J=8.4 Hz). IR(nujol): 1743 cm-1 (lactone carbonyl). MS(m/z): 220(M+).

reactant | 6-nitro-5-methyl-2-ethoxy-3,1-benzoxazin-4-one | 16 mmoles, 4.0 g | [N+](=O)([O-])C=1C=CC2=C(C(OC(=N2)OCC)=O)C1C | C11H10N2O5
solvent | ethyl acetate | 65 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.94 mmoles, 1.0 g | [Pd] | Pd
product | 6-amino-5-methyl-2-ethoxy-3,1-benzoxazin-4-one | 2.5 g, 71% yield | NC=1C=CC2=C(C(OC(=N2)OCC)=O)C1C | C11H12N2O3
